US06274735B1
25.4 g (53.86 mmol) of (3R,4R)-3-hydroxy-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butylester and 17.78 g (55.06 mmol) of 2-chloromethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-naphthalene (WO 97/09311) were dissolved in 180 ml of dimethylformamide under argon and then 2.49 g (57.09 mmol) of sodium hydride dispersion (55% in mineral oil) was added. Subsequently, the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured onto ice-water, the product was extracted 3 times with methylene chloride, the organic phases were washed twice with distilled water, then dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The resulting crude product was chromatographed on silica gel with methylene chloride and methanol to give 36.43 g (89.2% of theory) of (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[7-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylic acid tert-butylester as a yellowish oil; MS: 759 (M+H)+.

reactant | (3R,4R)-3-hydroxy-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butylester | 53.86 mmol, 25.4 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)O | C27H37NO6
reactant | 2-chloromethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-naphthalene | 55.06 mmol, 17.78 g | ClCC1=CC2=CC(=CC=C2C=C1)OCOCC[Si](C)(C)C | C17H23ClO2Si
reactant | sodium hydride | 57.09 mmol, 2.49 g | [H-].[Na+]
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[7-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylic acid tert-butylester | 36.43 g, 89.2% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC2=CC(=CC=C2C=C1)OCOCC[Si](C)(C)C | C44H59NO8Si
